US04507316
A mixture of 2 g of N(3-bromo-2-methyl-propanoyl)-N-cyclopentyl glycine-t-butyl ester, 0.7 g potassium thiocyanide in 5 ml water and 40 ml ethanol was stirred and refluxed for 16 hours. After removal of the solvent, it was diluted with water and extracted with ethyl acetate. The organic layer was dried over MgSO4 and evaporated to dryness. The oily residue was purified by HPLC using 20% EtOAc-hexane as eluent giving pure N(3-thiocyano-2-methyl propanoyl)-N-cyclopentyl glycine-t-butyl ester.

reactant | N(3-bromo-2-methyl-propanoyl)-N-cyclopentyl glycine-t-butyl ester | 2 g | C(C)(C)(C)OC(CN(C1CCCC1)C(C(CBr)C)=O)=O | C15H26BrNO3
reactant | potassium thiocyanide | 0.7 g | S(C#N)C#N.[K]
solvent | water | 5 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N(3-thiocyano-2-methyl propanoyl)-N-cyclopentyl glycine-t-butyl ester | C(C)(C)(C)OC(CN(C1CCCC1)C(C(CSC#N)C)=O)=O | C16H26N2O3S
